US09233946B2
4′-Fluoro-N-[3-(1H-tetrazol-5-yl)phenyl]biphenyl-3-sulfonamide
The product was prepared according to General Procedure 1, described in Example 1, starting from [3-(4-fluorophenyl)phenyl]sulfonyl chloride (15 mg, 0.055 mmol) and 5-(3-aminophenyl)tetrazole (8 mg, 0.05 mmol) giving 13 mg (66%) of the title compound. MS (ESI+) calcd for C19H14FN5O2S 395.085224, found 395.085454.

reactant | [3-(4-fluorophenyl)phenyl]sulfonyl chloride | 0.055 mmol, 15 mg | FC1=CC=C(C=C1)C=1C=C(C=CC1)S(=O)(=O)Cl | C12H8ClFO2S
reactant | 5-(3-aminophenyl)tetrazole | 0.05 mmol, 8 mg | NC=1C=C(C=CC1)C1=NN=NN1 | C7H7N5
product | 4′-Fluoro-N-[3-(1H-tetrazol-5-yl)phenyl]biphenyl-3-sulfonamide | 13 mg, 66% | FC1=CC=C(C=C1)C1=CC(=CC=C1)S(=O)(=O)NC1=CC(=CC=C1)C1=NN=NN1 | C19H14FN5O2S
